US06080760
c. 4-{1-[4-(3,4-Difluoro-phenyl)-2-oxo-oxazolidine-3-carbonyl]-piperidin-4-ylamino}-1-phenyl-cyclohexanecarbonitrile
To a solution of 4-(3,4-difluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid 4-nitrophenyl ester (80 mg, 0.21 mmol) in 5 ml of THF was added (4-cyano-4-phenyl-cyclohexyl)-piperidin-4-yl-carbamic acid tert-butyl ester (150 mg, 0.40 mmol) in a portion and the resulting solution was stirred for 12 h at 25° C. Reaction mixture was concentrated in vacuo, yielding a yellow oil, which was subjected to column chromatography (50% Hexane/EtOAc) to provide the tert-butyl ester of the desired product as a colorless oil. The product obtained was dissolved in 5 ml of EtOAc and 1 ml of 1N HCl-Et2O to afford a white solid of the product as the HCl salt: mp 181-192 C; Anal. Calc. For C27H28F2N4O3.1.0HCl requires C, 61.70; H, 5.73; N, 10.28. Found: C, 59.48; H, 5.41; N, 10.34.

reactant | 4-(3,4-difluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid 4-nitrophenyl ester | 0.21 mmol, 80 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=C(C=C1)F)F)=O | C16H10F2N2O6
reactant | (4-cyano-4-phenyl-cyclohexyl)-piperidin-4-yl-carbamic acid tert-butyl ester | 0.40 mmol, 150 mg | C(C)(C)(C)OC(N(C1CCNCC1)C1CCC(CC1)(C1=CC=CC=C1)C#N)=O | C23H33N3O2
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{1-[4-(3,4-Difluoro-phenyl)-2-oxo-oxazolidine-3-carbonyl]-piperidin-4-ylamino}-1-phenyl-cyclohexanecarbonitrile | FC=1C=C(C=CC1F)C1N(C(OC1)=O)C(=O)N1CCC(CC1)NC1CCC(CC1)(C#N)C1=CC=CC=C1 | C28H30F2N4O3
